US04684398
A solution of 24.6 g of N'-cyano-N-(1,2,3,4-tetrahydro-1-naphthyl)-S-methylisothiourea and 25.0 g of cyclopropylamine in 250 ml of ethanol was heated at reflux with stirring for ca. 120 hours. The solvent was then removed by evaporation in vacuo. The residual oil was dissolved in a mixture of hot isopropyl acetate and ethanol, and the solution was allowed to stand in the refrigerator overnight to give the partially-purified product as a white, crystalline solid. A further quantity of the crude product was obtained by the concentration and subsequent cooling of the mother liquor. Recrystallization from isopropyl acetate, containing a small amount of ethanol, gave N"-cyano-N-cyclopropyl-N'-(1,2,3,4-tetrahydro-1-naphthyl)guanidine as 7.75 g of a white, crystalline solid, mp 170.5°-171.5° C.

reactant | N'-cyano-N-(1,2,3,4-tetrahydro-1-naphthyl)-S-methylisothiourea | 24.6 g | C(#N)N=C(NC1CCCC2=CC=CC=C12)SC | C13H15N3S
reactant | cyclopropylamine | 25.0 g | C1(CC1)N | C3H7N
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | N"-cyano-N-cyclopropyl-N'-(1,2,3,4-tetrahydro-1-naphthyl)guanidine | C(#N)N=C(NC1CC1)NC1CCCC2=CC=CC=C12 | C15H18N4
